US06794395B1
(27) 3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-ethyl-methylidene}-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone and 4-(piperidin-1-yl-methyl)-aniline

reactant | 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(CC)OCC)=O | C17H21NO5
reactant | 4-(piperidin-1-yl-methyl)-aniline | N1(CCCCC1)CC1=CC=C(N)C=C1 | C12H18N2
product | 3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-ethyl-methylidene}-5,6-dimethoxy-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\CC)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C25H31N3O3
